US09193714B2
A mixture of tert-butyl 3-(((methylsulfonyl)oxy)methyl)azetidine-1-carboxylate (12.5 g, 47 mmol) and 235 mL tetrabutylammonium fluoride (1M solution in THF, 5 equiv.) was heated at reflux for 18 h. The reaction mixture was cooled to room temperature and excess THF was removed on a rotary evaporator. The residue was dissolved in ethyl acetate. The organic phase was washed with sat'd aqueous NaHCO3, washed with water, washed with brine, dried over Na2SO4, filtered and concentrated on a rotary evaporator to give the crude product. This crude product was purified by silica gel chromatography to afford tert-butyl 3-(fluoromethyl)azetidine-1-carboxylate as clear oil (7.5 g). 1H NMR (DMSO-d6): δ 4.52 (dd, 2H), 3.89 (br, 2H), 3.61 (br, 2H), 2.92-2.77 (m, 1H), 1.36 (s, 9H).

reactant | tert-butyl 3-(((methylsulfonyl)oxy)methyl)azetidine-1-carboxylate | 47 mmol, 12.5 g | CS(=O)(=O)OCC1CN(C1)C(=O)OC(C)(C)C | C10H19NO5S
reactant | tetrabutylammonium fluoride | 1M, 235 mL, 5 equiv. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl 3-(fluoromethyl)azetidine-1-carboxylate | 7.5 g | FCC1CN(C1)C(=O)OC(C)(C)C | C9H16FNO2
